US05220018
To a solution of 5-(3-nitrophenyl)tetrazole (22 g, 0.12 mol) in ethanol (500 mL) was added 10% palladium on carbon (1.5 g, 7% (w /w)) in hydrochloric acid (23 mL of a 5M solution). The mixture was hydrogenated at 40 psi for 10 minutes then the catalyst filtered off and washed with water. The solvents were evaporated in vacuo and the brown solid azeotroped with toluene (4×100 mL). The resulting solid was triturated with hot ethanol to give 5-(3-aminophenyl)tetrazole hydrochloride (16.3 g, 71%) as a beige powder. mp 203°-205° C. 1H NMR (D2O) δ7.63 (1H, d, J=8 Hz), 7.75 (1H, dd, J=8 Hz), 8.00 (2H, m).

reactant | 5-(3-nitrophenyl)tetrazole | 0.12 mol, 22 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=NN1 | C7H5N5O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 5-(3-aminophenyl)tetrazole hydrochloride | 16.3 g, 71% | Cl.NC=1C=C(C=CC1)C1=NN=NN1 | InChI=1S/C7H7N5.ClH/c8-6-3-1-2-5(4-6)7-9-11-12-10-7;/h1-4H,8H2,(H,9,10,11,12);1H
